US08729269B2
(S)—N-{3-[4-(4-(4-Nitrophenylamino)-3,3-dimethyl-4-cyanopiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide
By using procedure as described in Example 45 and by reacting (S)—N-{3-[3-fluoro-4-(4-oxo-3,3-dimethylpiperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide with sodium cyanide and 4-nitroaniline the compound was obtained in 51% yield.

reactant | (S)—N-{3-[3-fluoro-4-(4-oxo-3,3-dimethylpiperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | FC=1C=C(C=CC1N1CC(C(CC1)=O)(C)C)N1C(O[C@H](C1)CNC(C)=O)=O | C19H24FN3O4
reactant | sodium cyanide | [C-]#N.[Na+]
reactant | 4-nitroaniline | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
product | (S)—N-{3-[4-(4-(4-Nitrophenylamino)-3,3-dimethyl-4-cyanopiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 51% yield | [N+](=O)([O-])C1=CC=C(C=C1)NC1(C(CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F)(C)C)C#N | C26H29FN6O5
